US03994907
4.5 parts of 2-hydroxy-4-methoxy benzaldehyde and 7.38 parts of the ethyl ester of 3-p-tolyl-1,2,4-oxadiazol-5-acetic acid (melting point: 56° C) are dissolved in 80 parts of ethanol. 0.3 part of piperidine is added and the mixture is heated for 1 hour under reflux. After cooling, the crystalline precipitate obtained is filtered and washed in ethanol. Thus 8.5 parts of 7-methoxy-3-(3-p-tolyl-1,2,4-oxadiazol-5-yl) coumarin are obtained which melts at 227° C.

reactant | 2-hydroxy-4-methoxy benzaldehyde | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | 3-p-tolyl-1,2,4-oxadiazol-5-acetic acid | C1(=CC=C(C=C1)C1=NOC(=N1)CC(=O)O)C | C11H10N2O3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 7-methoxy-3-(3-p-tolyl-1,2,4-oxadiazol-5-yl) coumarin | COC1=CC=C2C=C(C(OC2=C1)=O)C1=NC(=NO1)C1=CC=C(C=C1)C | C19H14N2O4
